US06376685B1
To a solution of N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-methanesulfonyloxybutane(the 2-hydroxy-1-sulfonate compound:the 1-hydroxy-2-sulfonate compound:the diol compound:the 1,2-disulfonate compound=97.1:0.1:0.4:2.3 according to the HPLC area ratio) 50 g dissolved in ethyl acetate 510 ml was added 28% sodium methylate methanol solution 58.2 g under ice-cooling and stirred for 10 min. The reaction solution was diluted with water and adjusted with 6N-HCl to pH7 to separate an organic phase, which was distilled to remove the solvent. The concentrated residue was mixed with n-heptane, stirred at the ambient temperature for 1 hr to deposit crystals, which were filtered to remove. The filtrate was washed with water to separate an organic phase, which was mixed with active charcoal 2 g, stirred at the ambient temperature for 1 hr and filtered to remove charcoal. The filtrate was cooled down to −20° C. to deposit crystals, which were filtered and dried in vacuum to obtain the N-tert-butoxycarbonyl-3(S)-amino-1,2(R)-epoxy-4-phenylbutane(98.5% according to the HPLC area ratio) 28.8 g. The diol compound and the 1,2-disulfonate compound contained in a concentration of 0.5% or less in the crystals according to the HPLC area ratio respectively.

reactant | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-methanesulfonyloxybutane | C(C)(C)(C)OC(=O)N[C@H]([C@H](COS(=O)(=O)C)O)CC1=CC=CC=C1 | C16H25NO6S
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 510 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-tert-butoxycarbonyl-3(S)-amino-1,2(R)-epoxy-4-phenylbutane | C(C)(C)(C)OC(=O)N[C@H]([C@@H]1CO1)CC1=CC=CC=C1 | C15H21NO3
